US05731322
(±)-trans-2-Ethyl-6-hydroxyimino-4a-(3-methoxyphenyl)-1,2,3,4,4a,5,6,7,8, 8a-decahydroisoquinoline
0.5 g (1.54 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 0.456 g (6.56 mmol) of hydroxylamine hydrochloride and 0.64 g of KHCO3 in 10 ml of MeOH were refluxed for 45 min. The precipitate was filtered, the solvent was removed in vacuo and the residue taken up in H2O. The pH was adjusted to 8 with conc. NH4OH, the aqueous layer was extracted with CH2Cl2. The organic layer was dried, the solvent removed in vacuo, obtaining 0.45 g of the title compound which was used as such in the subsequent step.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 1.54 mmol, 0.5 g | Cl.C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | hydroxylamine hydrochloride | 6.56 mmol, 0.456 g | Cl.NO
solvent | MeOH | 10 ml | CO | CH4O
product | (±)-trans-2-Ethyl-6-hydroxyimino-4a-(3-methoxyphenyl)-1,2,3,4,4a,5,6,7,8, 8a-decahydroisoquinoline | 0.45 g | C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=NO | C18H26N2O2
